US08106064B2
2-(4-Chloro-2,6-dimethoxy-pyrimidin-5-yl)-propan-2-ol:
To a solution of 5-Bromo-4-chloro-2,6-dimethoxy-pyrimidine (0.546 g, 2.16 mmol) in THF (22 mL) at −78° C. was added n-butyllithium (1.6 M in hexanes, 1.48 mL, 2.37 mmol) over 2 min. Reaction mixture was stirred from 45 min at −78° C., then acetone (0.31 mL, 4.32 mmol) was added. Reaction mixture was stirred for 1 h at −78° C., then quenched with saturated ammonium chloride solution and extracted with ethyl acetate. Organic layer was washed with saturated ammonium chloride solution, dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 10 to 30% ethyl acetate/hexane) to give a colorless oil (0.275 g, 55%). 1H NMR (300 MHz, CDCl3): δ 3.97 (br s, 1H), 3.92 (s, 3H), 3.82 (s, 3H), 1.54 (s, 6H). Mass spectrum: 233.0, 235.0 (M+H)+.

reactant | 5-Bromo-4-chloro-2,6-dimethoxy-pyrimidine | 2.16 mmol, 0.546 g | BrC=1C(=NC(=NC1OC)OC)Cl | C6H6BrClN2O2
reactant | n-butyllithium | 2.37 mmol, 1.6 M, 1.48 mL | C(CCC)[Li]
reactant | acetone | 4.32 mmol, 0.31 mL | CC(=O)C | C3H6O
solvent | THF | 22 mL | C1CCOC1 | C4H8O
product | 2-(4-Chloro-2,6-dimethoxy-pyrimidin-5-yl)-propan-2-ol | 0.275 g, 55% | ClC1=NC(=NC(=C1C(C)(C)O)OC)OC | C9H13ClN2O3
